* SPDX-License-Identifier: Apache-2.0
* Dual CML window slicer.  VBIAS_TH programs the symmetric dead zone.
.subckt cml_error_slicer ERRP ERRN VREFP VREFN VBIAS_MAIN VBIAS_TH VDD VSS UPP UPN DNP DNN
XURP VDD UPP VSS ppolyf_u r_width=2u r_length=4.00u
XURN VDD UPN VSS ppolyf_u r_width=2u r_length=4.00u
XDRP VDD DNP VSS ppolyf_u r_width=2u r_length=4.00u
XDRN VDD DNN VSS ppolyf_u r_width=2u r_length=4.00u

* UP main pair: ERRP > ERRN raises UPP-UPN.
XUMP UPN ERRP UTM VSS nfet_03v3 w=8u l=0.28u m=2
XUMN UPP ERRN UTM VSS nfet_03v3 w=8u l=0.28u m=2
XUMT UTM VBIAS_MAIN VSS VSS nfet_03v3 w=8u l=0.28u m=2

* A smaller opposing pair establishes the programmable UP threshold.
XUTP UPP VREFP UTT VSS nfet_03v3 w=8u l=0.28u m=2
XUTN UPN VREFN UTT VSS nfet_03v3 w=8u l=0.28u m=2
XUTT UTT VBIAS_TH VSS VSS nfet_03v3 w=8u l=0.28u m=2

* DOWN is the exact mirror: ERRN > ERRP raises DNP-DNN.
XDMP DNN ERRN DTM VSS nfet_03v3 w=8u l=0.28u m=2
XDMN DNP ERRP DTM VSS nfet_03v3 w=8u l=0.28u m=2
XDMT DTM VBIAS_MAIN VSS VSS nfet_03v3 w=8u l=0.28u m=2

XDTP DNP VREFP DTT VSS nfet_03v3 w=8u l=0.28u m=2
XDTN DNN VREFN DTT VSS nfet_03v3 w=8u l=0.28u m=2
XDTT DTT VBIAS_TH VSS VSS nfet_03v3 w=8u l=0.28u m=2
.ends cml_error_slicer
